US08445510B2
2-Chloro-6-difluoromethoxy-3-fluorobenzaldehyde
To a solution of crude 2-chloro-4-difluoromethoxy-3-dimethoxymethyl-1-fluorobenzene (181 g, 670 mmol) in acetone (650 mL) and water (150 mL) was added Amberlyst-15 resin (540 g, pre-washed with water) and the mixture was stirred using mechanical stirrer for 40 h at RT. The Amberlyst-15 resin was removed by filtration using celite bed on sintered funnel, and the filtrate was evaporated on a rotary evaporator at RT (Note: aldehyde evaporates at higher temperatures under reduced pressure). The residue was purified by column chromatography on silica gel using ethyl acetate/hexanes (5% to 10%) to obtain the title compound (60 g, 40%).

reactant | 2-chloro-4-difluoromethoxy-3-dimethoxymethyl-1-fluorobenzene | 670 mmol, 181 g | ClC1=C(C=CC(=C1C(OC)OC)OC(F)F)F | C10H10ClF3O3
solvent | acetone | 650 mL | CC(=O)C | C3H6O
solvent | water | 150 mL | O | H2O
product | 2-Chloro-6-difluoromethoxy-3-fluorobenzaldehyde | 60 g, 40% | ClC1=C(C=O)C(=CC=C1F)OC(F)F | C8H4ClF3O2
